US07691882B2
3-(3-(3-Fluoro-4-(pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a methanol (20.0 mL) solution of 2-(2-fluoro-4-(2-nitro-ethyl)-phenoxymethyl)-pyridine (500 mg, 1.81 mmol) described in Manufacturing Example 87-1-3 was added lithium methoxide (137 mg, 3.61 mmol) under nitrogen atmosphere, which was stirred for 30 minutes at room temperature. The reaction mixture was concentrated under a reduced pressure, and dichloromethane (15.0 mL) and anhydrous tetrahydrofuran (7.00 mL) were added to the residue. Titanium (IV) chloride (656 μL, 5.97 mmol) was added dropwise to the reaction mixture on a dry ice-ethanol bath (−78° C.), and which was stirred for 30 minutes at room temperature. Aqueous sodium bicarbonate and ethyl acetate were added to the reaction mixture on an ice bath (0° C.), which was filtered through a Celite pad. The organic layer of the filtrate was extracted with ethyl acetate, and this organic layer was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure to obtain a crude product (300 mg). To a tetrahydrofuran (5.00 mL) solution of this crude product (150 mg) and 3-ethynyl-pyridin-2,6-diamine (30.0 mg, 0.225 mmol) described in Manufacturing Example 13-1-3 was added triethylamine (94.1 μL, 0.675 mmol) at room temperature, which was stirred for 1 hour at room temperature. Water was added to the reaction solution, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=2:1→10:1) to obtain the title compound (35.0 mg, 39.7%).

reactant | 2-(2-fluoro-4-(2-nitro-ethyl)-phenoxymethyl)-pyridine | 1.81 mmol, 500 mg | FC1=C(OCC2=NC=CC=C2)C=CC(=C1)CC[N+](=O)[O-] | C14H13FN2O3
reactant | lithium methoxide | 3.61 mmol, 137 mg | C[O-].[Li+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 3-ethynyl-pyridin-2,6-diamine | 0.225 mmol, 30.0 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 0.675 mmol, 94.1 μL | C(C)N(CC)CC | C6H15N
catalyst | Titanium (IV) chloride | 5.97 mmol, 656 μL | [Ti](Cl)(Cl)(Cl)Cl
solvent | Water | O | H2O
solvent | tetrahydrofuran | 5.00 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 20.0 mL | CO | CH4O
product | 3-(3-(3-Fluoro-4-(pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 35.0 mg, 39.7% | FC=1C=C(CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=CC1OCC1=NC=CC=C1 | C21H18FN5O2
